US06984734B2
Ethyl 4-heptanoyl-2-pyrrolecarboxylate.
Starting with 2.0 g of ethyl pyrrole carboxylate (14 mmol) and 4.2 ml (26 mmol) of heptanoylchloride and following a procedure analogous to the one described above, 2.5 g (70% yield) of the desired product is obtained. 1H NMR (δ ppm, CDCl3): 10.07 (s, br, 1H, NH); 7.53 (dd, J=1.60, 3.35 Hz, 1H, α-pyrrolic); 7.27 (dd, J=1.60, 2.47; 1H; β-pyrrolic); 4.32 (q, 2H, J=7.14 Hz, CO2Et); 2.73 (t, 2H, J=7.50, α-CO CH2); 1.67 (m, 2H, β-CO CH2); 1.33 (t, 3H, J=7.14, CO2Et); 1.28 (m, 6H, γ,δ,ε CH2); 0.85 (m, 3H, end-CH3). 13C NMR (δ ppm, CDCl3): 196.32; 161.26; 127.07; 126.24; 124.01; 114.86; 60.99; 39.78; 31.62; 29.05; 24.59; 22.48; 14.30; 13.99. Exact mass calculated for C14H22NO3 (M+H)=252.159969, found=252.159072.

reactant | ethyl pyrrole carboxylate | 14 mmol, 2.0 g | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | heptanoylchloride | 26 mmol, 4.2 ml | C(CCCCCC)(=O)Cl | C7H13ClO
product | Ethyl 4-heptanoyl-2-pyrrolecarboxylate | 2.5 g, 70% yield | C(CCCCCC)(=O)C=1C=C(NC1)C(=O)OCC | C14H21NO3
